US08383644B2
Step 6. Preparation of (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester
To a solution of (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester (298 mg) in THF/DCE (30 mL, 2:1) was added paraformaldehyde (90 mg, 4 eq.) and sodium triacetoxy-borohydride (208 mg) and the mixture stirred 4 hours. DCM was added to the mixture and the organic washed with 10% Na2CO3 solution and brine. The organic was dried over sodium sulfate and the solvent removed under reduced pressure to afford the crude amine. The residue was purified by flash chromatography (hexanes/ethyl acetate from 80:20 to 60:40) to provide the product (277 mg).

reactant | (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | 298 mg | COC(=O)C1N(CC=2C=C3O[C@H](CNC3=CC2C1)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C31H32Cl2N2O6
reactant | paraformaldehyde | 90 mg, 4 eq. | C=O | CH2O
reactant | sodium triacetoxy-borohydride | 208 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | THF DCE | 30 mL | C1CCOC1.ClCCCl
product | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-1-methyl-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-tert-butyl ester 7-methyl ester | 277 mg | COC(=O)C1N(CC=2C=C3O[C@H](CN(C3=CC2C1)C)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)(C)C | C32H34Cl2N2O6
